US07947851B2
5-[{4-[(4-butylphenyl)ethynyl]benzyl}(cyclopropylmethyl)amino]-2-fluorobenzoic acid N-methyl-D-glucamine (i.e. 1-deoxy-1-(methylamino)glucitol)salt
The title compound was prepared following procedure described in example 24 from 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(cyclopropylmethyl)amino]-2-fluorobenzoic acid (200 mg; 0.44 mmol) and N-methyl-D-glucamine (86 mg; 0.44 mmol) and obtained quantitatively as a brown powder. HPLC, Rt: 5.35 min purity: 98.7%), LC/MS, M−(ESI): 454.1. Analysis calculated for C30H30NO2F—C7H17−NO5-0.5 CH2Cl2-3.0 H20: calculated C, 60.27%, H, 7.28%, N, 3.75%; Found: C, 60.50%, H, 6.96%, N, 3.92%.

reactant | 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(cyclopropylmethyl)amino]-2-fluorobenzoic acid | 0.44 mmol, 200 mg | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)F)CC2CC2)C=C1 | C30H30FNO2
reactant | N-methyl-D-glucamine | 0.44 mmol, 86 mg | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C7H17NO5
product | 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(cyclopropylmethyl)amino]-2-fluorobenzoic acid N-methyl-D-glucamine | CNC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO.C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)F)CC2CC2)C=C1 | InChI=1S/C30H30FNO2.C7H17NO5/c1-2-3-4-22-5-7-23(8-6-22)9-10-24-11-13-25(14-12-24)20-32(21-26-15-16-26)27-17-18-29(31)28(19-27)30(33)34;1-8-2-4(10)6(12)7(13)5(11)3-9/h5-8,11-14,17-19,26H,2-4,15-16,20-21H2,1H3,(H,33,34);4-13H,2-3H2,1H3/t;4-,5+,6+,7+/m.0/s1
